US04539324
1-[α-(Benzylthio)benzyl]-5-chloropyrimidin-2-one
α-Chlorobenzyl benzyl sulphide (see R. H. Mitchell, Tetrahedron Letters 44, 4395 (1973) (4 mmol) in CH2Cl2 (10 ml) was added dropwise over a period of 5 minutes at 0° C. to a mixture of 5-chloropyrimidin-2-one hydrochloride (4 mmol) and triethylamine (8 mmol) in CH2Cl2 (30 ml). The mixture was stirred for 3 hours at room temperature and 1/2 hour at 40° C. before chloroform (20 ml) was added and the solution washed with water (3 times). The dried (MgSO4) solution was evaporated, ether added to the crude product and the insoluble product collected. Yield 0.35 g (26%), m.p. 118° C. 1H-NMR (CDCl3): δ(CH2) 7.12 (--CH--), 7.27 (Ph), 7.33 (Ph), 8.12 (H-4, d, J 3 Hz)), 8.30 (H-6, d, J 3 Hz).

reactant | α-Chlorobenzyl benzyl sulphide | C(C1=CC=CC=C1)SC(C1=CC=CC=C1)Cl | C14H13ClS
reactant | 5-chloropyrimidin-2-one hydrochloride | 4 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | triethylamine | 8 mmol | C(C)N(CC)CC | C6H15N
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-[α-(Benzylthio)benzyl]-5-chloropyrimidin-2-one | C(C1=CC=CC=C1)SC(C1=CC=CC=C1)N1C(N=CC(=C1)Cl)=O | C18H15ClN2OS
